US08003647B2
3-Benzyloxy-4-methylbenzoic acid benzyl ester
To a solution of 3-hydroxy-4-methylbenzoic acid (5.0 g) in N,N-dimethylformamide (100 mL) were added cesium carbonate (32 g) and benzyl bromide (12 g) at the same temperature and this mixture was stirred at room temperature for 2 days. To this reaction mixture was added a saturated aqueous sodium bicarbonate solution and this mixture was extracted with ethyl acetate. The organic layer was washed with brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure and this residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate) to give the title compound (7.5 g).

reactant | 3-hydroxy-4-methylbenzoic acid | 5.0 g | OC=1C=C(C(=O)O)C=CC1C | C8H8O3
reactant | cesium carbonate | 32 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | benzyl bromide | 12 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 3-Benzyloxy-4-methylbenzoic acid benzyl ester | 7.5 g | C(C1=CC=CC=C1)OC(C1=CC(=C(C=C1)C)OCC1=CC=CC=C1)=O | C22H20O3
